US08008307B2
Step a: 4,6-dichloro-N-[(1S)-3,3-dimethyl-2,3-dihydro-1H-inden-1-yl]-1,3,5-triazin-2-amine
To a solution of (1S)-3,3-dimethylindan-1-amine (0.67 g, 4.2 mmol) in THF (3 mL) cooled to 0° C. was added cyanuric chloride (0.874 g, 4.74 mmol) resulting in a white solid. DIPEA (0.724 mL, 4.16 mmol) was added and the yellow mixture was stirred for 1.5 hours. The reaction was quenched with H2O and extracted with DCM (3×). The combined organic layers were dried (Na2SO4), filtered and collected in vacuo to give a pale yellow oil. The residue was; purified by flash chromatography (0 to 25% EtOAc/hexanes) to afford the title compound (0.771 g, 60%) as a white solid. LC/MS: Rt=2.20 min, ES+ 310 (FA standard).

reactant | (1S)-3,3-dimethylindan-1-amine | 4.2 mmol, 0.67 g | CC1(C[C@@H](C2=CC=CC=C12)N)C | C11H15N
reactant | cyanuric chloride | 4.74 mmol, 0.874 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | DIPEA | 4.16 mmol, 0.724 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4,6-dichloro-N-[(1S)-3,3-dimethyl-2,3-dihydro-1H-inden-1-yl]-1,3,5-triazin-2-amine | 0.771 g, 60% | ClC1=NC(=NC(=N1)Cl)N[C@H]1CC(C2=CC=CC=C12)(C)C | C14H14Cl2N4
